US06028195
1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(2-methylthiophenyl)piperazine
Phenyl N-(2-methylquinolin-3-yl)carbamate and 1-(2-methylthiophenyl)piperazine were reacted by the same way with the example 114 to obtain the titled compound.

reactant | Phenyl N-(2-methylquinolin-3-yl)carbamate | CC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O2
reactant | 1-(2-methylthiophenyl)piperazine | CSC1=C(C=CC=C1)N1CCNCC1 | C11H16N2S
product | 1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(2-methylthiophenyl)piperazine | yield: 76% | CC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)SC | C22H24N4OS
